US07517875B2
After dissolving (1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(4-nitro-1H-benzimidazol-2-yl)-amine (500 mg) in 1,4-dioxane (15 ml), di-t-butyl dicarbonate (1 g) was added and the mixture was stirred at 50° C. for 2 hours. The solvent was removed under reduced pressure, and the obtained residue was washed with hexane (5 ml×5 times). The residue was dissolved in tetrahydrofuran (10 ml), Raney nickel (500 mg) was added, and the mixture was stirred at room temperature overnight under a hydrogen stream. The reaction mixture was filtered with celite, and then the solvent was distilled off under reduced pressure to obtain 4-amino-2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1-carboxylic acid tert-butyl ester.

reactant | (1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(4-nitro-1H-benzimidazol-2-yl)-amine | 500 mg | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C24H25N5O2
reactant | di-t-butyl dicarbonate | 1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-amino-2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2N)NCC2CCN(CC2)CC2=CC=CC1=CC=CC=C21 | C29H35N5O2
